US05437815
294 g of aluminium chloride was added to 1000 ml of carbon disulfide and stirred. The reaction solution was cooled to 0° C. or lower, and 166 g of propionyl chloride was dropwise added thereto. Next, 283 g of bromobenzene was dropwise added thereto. Then, the whole was stirred for one hour at room temperature. After reaction, the reaction solution was poured into a mixture of 300 ml of concentrated hydrochloric acid and 600 g of ice. This was extracted with chloroform and washed three times with water, and chloroform was removed by distillation. By distillation under reduced pressure (b.p. 100° to 105° C./2 mmHg), 301 g of 1-bromo-4-propionylbenzene was obtained.

reactant | aluminium chloride | 294 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 166 g | C(CC)(=O)Cl | C3H5ClO
reactant | bromobenzene | 283 g | BrC1=CC=CC=C1 | C6H5Br
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | carbon disulfide | 1000 ml | C(=S)=S | CS2
product | 1-bromo-4-propionylbenzene | 301 g | BrC1=CC=C(C=C1)C(CC)=O | C9H9BrO
